US08835472B2
5-(4-Hydroxy-phenoxy)-pyrimidine
To 1.00 g (4.99 mmol) 4-(benzyloxy)phenol and 794 mg (4.99 mmol) 5-bromo-pyrimidine in 5 mL DMF are added 3.25 g (9.99 mmol) Cs2CO3 and the reaction mixture is stirred at 120° C. for 6 h in a microwave oven. Then the reaction mixture is diluted with water and extracted with EtOAc. The organic layer is dried with Na2SO4 and the solvent is removed in vacuo. The residue is purified by HPLC (MeOH/H2O/NH3).

reactant | 4-(benzyloxy)phenol | 4.99 mmol, 1.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | 5-bromo-pyrimidine | 4.99 mmol, 794 mg | BrC=1C=NC=NC1 | C4H3BrN2
reactant | Cs2CO3 | 9.99 mmol, 3.25 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(4-Hydroxy-phenoxy)-pyrimidine | OC1=CC=C(OC=2C=NC=NC2)C=C1 | C10H8N2O2
